US04644063
(1RS,2RS)-2-(1,3-dioxo-2-azaindane-2-yl)-4-methyl-1-phenylpentane-1-ol
Aluminum isopropoxide (125.6 g, 615 mmcl) was added to a suspension of 2-(1,3-dioxo-2-azaindane-2-yl)-4-methyl-1-phenylpentane-1-one (72.3 g, 225 mmcl) in isopropanol (1,000 ml). The mixture was heated under reflux for 6.5 hours. The isopropanol was removed by distillation under reduced pressure and the residue was added with ethyl acetate (800 ml) and further with an aqueous solution of sodium sulfate. The resulting organic layer was decanted and the residue was washed twice with ethyl acetate (200 ml). The combined organic layer was washed with brine. The organic solution was dried and the solvent was removed by distillation under reduced pressure. The residue was recrystallized twice from benzene to obtain 29.3 g of the intended compound as white crystals (yield: 40%).

reactant | Aluminum isopropoxide | 125.6 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | 2-(1,3-dioxo-2-azaindane-2-yl)-4-methyl-1-phenylpentane-1-one | 72.3 g | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)C1=CC=CC=C1)CC(C)C | C20H19NO3
solvent | isopropanol | 1,000 ml | C(C)(C)O | C3H8O
product | (1RS,2RS)-2-(1,3-dioxo-2-azaindane-2-yl)-4-methyl-1-phenylpentane-1-ol | 29.3 g, yield: 40% | O=C1N(C(C2=CC=CC=C12)=O)C(C(O)C1=CC=CC=C1)CC(C)C | C20H21NO3
